US07087761B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-methyl-isonicotinamide
20.0 g Pyridine acid (115 mmol) were suspended at RT in 100 ml dichloromethane. 0.5 ml Dimethylformamide (6.5 mmol) was added, and after 0.2 h, 14.9 g oxalyl chloride (10.2 ml, 115 mmol) were added over 2 min. The dropping funnel was rinsed with 4 ml dichloromethane. The brown suspension was stirred at RT for 3 h. Then 200 ml tetrahydrofuran were added causing the acid chloride to partially precipitate. After 0.2 h, 24.3 g aminobenzothiazole (IA) (92 mmol) were added in one portion at RT. Directly afterwards, 56.0 ml N-ethyldiisopropylamine (42 g, 321 mmol) were added over 0.1 h., and the reaction mixture was stirred at RT overnight (˜17 h). The contents were heated to reflux (˜60° C.), and 300 ml water were added whilst maintaining ca. constant volume throughout a distillation process until the internal temperature reached 90° C. Once all the water was added, heating was increased to 110° C. and a total of 280 ml of distillate was collected. A further 320 ml water was added in one portion, and the temperature was increased to 120° C. whereby the internal and distillate temperature rose to ˜70° C.

reactant | Pyridine | 115 mmol, 20.0 g | N1=CC=CC=C1 | C5H5N
reactant | Dimethylformamide | 6.5 mmol, 0.5 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 115 mmol, 10.2 ml, 14.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aminobenzothiazole | 92 mmol, 24.3 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | N-ethyldiisopropylamine | 321 mmol, 56.0 ml, 42 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
reactant | water | 300 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-methyl-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)C)=O)N2CCOCC2 | C19H20N4O3S
